* source POWER
X_U4         VSOURCE VSOURCE 0 N16702 N16657 0 TLV61048 PARAMS:  SS_CURRENT=10N
V_V2         VSOURCE 0 3.7
R_R3         N16657 VBOOST  590k TC=0,0 
R_R4         0 N16657  100k TC=0,0 
D_D1         N16702 VBOOST MBR320 
C_C2         0 VBOOST  10u  TC=0,0 
C_C3         0 VSOURCE  1u  TC=0,0 
C_C4         0 VBOOST  1u  TC=0,0 
X_U5         VBOOST N17416 0 VBOOST +5V N17931 TPS717185_TRANS
C_C5         0 +5V  1u  TC=0,0 
C_C6         0 N17416  0.01u  TC=0,0 
L_L1         VSOURCE N179991  3.3u  
R_R5         N179991 N16702  22m TC=0,0 
R_R6         0 N17931  0 TC=0,0 
R_R7         0 +5V  50 TC=0,0 
C_C7         0 VSOURCE  4.7u  TC=0,0 
X_U6         N19804 0 VSOURCE +3.3V N20441 TLV75733P_TRANS
R_R8         0 VSOURCE  100k TC=0,0 
C_C8         0 VSOURCE  10u  TC=0,0 
R_R9         N19804 VSOURCE  1k TC=0,0 
C_C9         0 +3.3V  10u  TC=0,0 
R_R10         0 +3.3V  8 TC=0,0 
R_R11         N20441 0  0 TC=0,0 
C_C10         0 0  1u  TC=0,0 
